US04124726
A 2.8 g (0.02 mole) of benzoic acid chloride was dissolved in 30 ml of carbon disulfide and then, 4.0 g (0.03 mole) of anhydrous aluminum chloride was added to the solution. A 2.68 g (0.02 mole) of n-butyl benzene was further added to the mixture with stirring, and the reaction was carried out at room temperature for 18 hours. Carbon disulfide was distilled off from the reaction mixture and water was added and the reaction product was extracted with benzene. The benzene phase was separated and washed with 1N-NaOH and with water and was dried with anhydrous sodium sulfate. The solvent was distilled off to obtain a pale yellow oily product. The oily product was distilled under a reduced pressure to obtain 4.6 g of 4-n-butyl benzophenone having a boiling point of 184° to 188° C./6 mmHg. (yield of 96.8%).

reactant | benzoic acid chloride | 0.02 mole, 2.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 0.03 mole, 4.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | n-butyl benzene | 0.02 mole, 2.68 g | C(CCC)C1=CC=CC=C1 | C10H14
solvent | carbon disulfide | 30 ml | C(=S)=S | CS2
product | 4-n-butyl benzophenone | 4.6 g, yield of 96.8% | C(CCC)C1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C17H18O
